US03931235
3-p-Chlorophenylthio-4-hydroxy-6-methyl-2-pyrone
A mixture of the monosodium salt of 4-hydroxy-6-methyl-2-pyrone (29.6 g., 0.200 mol), p-chlorophenyl p-toluenethiolsulfonate (59.8 g., 0.200 mol), and 2B absolute ethanol (500 ml.) was heated at reflux with stirring for 6.5 hours. The ethanol was removed by distillation in vacuo and the residue triturated with water (300 ml.). The crude product was removed by filtration, 53.0 g. (m. 166°-177°C., 91% yield); after recrystallization from ethanol, 36.4 g., m. 175°-180°C., 68% yield. A second recrystallization produced the pure product, 18.0 g., m 181°-182°C., 34 percent yield. The aqueous filtrate was acidified with dilute HCl producing 21.8 g. (70 percent yield) of the by-product p-toluenesulfinic acid, m. 87°-89°C.

reactant | monosodium | [Na] | Na
reactant | 4-hydroxy-6-methyl-2-pyrone | 0.200 mol, 29.6 g | OC1=CC(OC(=C1)C)=O | C6H6O3
reactant | HCl | 21.8 g | Cl | ClH
reactant | p-toluenesulfinic acid | C1(=CC=C(C=C1)S(=O)O)C | C7H8O2S
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 3-p-Chlorophenylthio-4-hydroxy-6-methyl-2-pyrone | 70 percent yield | ClC1=CC=C(C=C1)SC=1C(OC(=CC1O)C)=O | C12H9ClO3S
